US07405219B2
3-(4-Hydroxybenzyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (Example 221)
A solution of 7-(2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (400 mg, 1.98 mmol) in DMF (3 mL), at 0° C., was treated with 60% sodium hydride in mineral oil (80 mg, 1.98 mmol), stirred for 30 min, treated with 4-(2-(trimethylsilyl)ethoxymethoxy)benzyl bromide (1.23 g, 3.96 mmol), stirred at room temperature for 48 h and purified by chromatography [SiO2; EtOAc:heptane, (1:2)]. The resulting yellow solid was dissolved in MeOH:DMF (1:2), passed through an ion exchange cartridge (Isolute SPE SCX-2), concentrated in vacuo, and washed with water and ether to give the title compound (41 mg, 7%) as a pale yellow solid.

reactant | 7-(2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 1.98 mmol, 400 mg | O1C(=CC=C1)C=1C2=C(N=C(N1)N)N=NN2 | C8H6N6O
reactant | sodium hydride | [H-].[Na+]
reactant | 4-(2-(trimethylsilyl)ethoxymethoxy)benzyl bromide | 3.96 mmol, 1.23 g | C[Si](CCOCOC1=CC=C(CBr)C=C1)(C)C | C13H21BrO2Si
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-(4-Hydroxybenzyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 41 mg, 7% | OC1=CC=C(CN2N=NC3=C2N=C(N=C3C=3OC=CC3)N)C=C1 | C15H12N6O2
